US05712331
2-Methylaziridine (9.1 gm) was charged in a 100 ml round bottle reaction vessel equipped with a condenser and dropping funnel. Ethylene glycol diacrylate (13.5 gm) was slowly added to the solution while stirring with a magnetic stirrer to maintain the solution temperature below about 40°-45° C. The resulting solution was further stirred at 50° C. for 30 minutes and at room temperature for 30 minutes. Ethylene glycol di(2-methyl-1-aziridinepropionate) was formed as a slightly yellowish viscous liquid and used without further purification. Trimethylolpropane tris[3-(2-methyl-1-aziridinyl)propionate] was also prepared by adding trimeylolpropane triacrylate (9.87 gm) to 2-methylaziridine (5.7 gm) using the foregoing method.

reactant | 2-Methylaziridine | 9.1 gm | CC1NC1 | C3H7N
reactant | Ethylene glycol diacrylate | 13.5 gm | C(C=C)(=O)OCCOC(C=C)=O | C8H10O4
product | Ethylene glycol di(2-methyl-1-aziridinepropionate) | CC1N(C1)CCC(=O)OCCOC(CCN1C(C1)C)=O | C14H24N2O4
